US08071592B2
(e) 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide Dihydrochloride
1,1-Dimethylethyl {1-[2-(7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate (335 mg, 0.824 mmol) was dissolved in DCM (3 mL) and 4M HCl in 1,4-dioxane (0.830 mL (ca. 4 eq.) was added. A further 10 mL DCM was added to disperse the solid, then a further 0.830 mL 4M HCl in 1,4-dioxane was added. The mixture was left at room temperature for 30 minutes, then the solvents were removed under reduced pressure to give title compound as a white solid (315 mg).

reactant | 1,1-Dimethylethyl {1-[2-(7-fluoro-5-oxido-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate | 0.824 mmol, 335 mg | FC1=C[N+](=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O)[O-] | C20H27FN4O4
reactant | HCl | 4M | Cl | ClH
reactant | HCl | 4M, 0.830 mL | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-Amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one 5-oxide Dihydrochloride | 315 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=CC=2[N+](=CC(=CC12)F)[O-])=O | InChI=1S/C15H19FN4O2.2ClH/c16-11-9-14-13(20(22)10-11)1-2-15(21)19(14)8-7-18-5-3-12(17)4-6-18;;/h1-2,9-10,12H,3-8,17H2;2*1H
